US09326973B2
To a solution of (R)-4,4-dimethyl-2-oxotetrahydrofuran-3-yl trifluoromethanesulfonate (10 g) in DCM (10 mL) was added tetra-n-butylammonium azide (11.1 g). The reaction mixture was stirred at rt for 16 hr. The reaction was diluted with EtOAc, washed with water, sat. NaHCO3, citric acid, water, and sat. NaCl, dried over anhydrous Na2SO4, filtered and concentrated to yield an oil. The crude product was purified by silica gel chromatography (0-100% EtOAc in hexane) to yield (S)-3-azido-4,4-dimethyldihydrofuran-2(3H)-one as a white solid. 1H NMR (400 MHz, CHLOROFORM-d) ppm 3.87-4.02 (3H, m), 1.17 (3H, s), 1.02 (3H, s).

reactant | (R)-4,4-dimethyl-2-oxotetrahydrofuran-3-yl trifluoromethanesulfonate | 10 g | FC(S(=O)(=O)O[C@H]1C(OCC1(C)C)=O)(F)F | C7H9F3O5S
reactant | tetra-n-butylammonium azide | 11.1 g | [N-]=[N+]=[N-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-3-azido-4,4-dimethyldihydrofuran-2(3H)-one | N(=[N+]=[N-])[C@@H]1C(OCC1(C)C)=O | C6H9N3O2
